US06124323
1-[2-(4-Hydroxyphenoxy)ethyl]-4-hydroxy-4-(4-methylbenzyl)piperidine hydrochloride
4-Hydroxy-4-(4-methylbenzyl)piperidine hydrochloride. A mixture of 1-benzyl-4-(4-methylbenzyl)-4-hydroxypiperidine (2.8 g, 9.5 mmol) and 700 mg of 10% Pd/C in 100 mL of 95% ethanol was hydrogenated at 50 psi for overnight. The catalyst was removed through a short column of celite (10 g) and washed with methanol (3×15 mL). To the filtrate was added 12 mL of 1M HCl in methanol. Evaporation of methanol gave a residue, to which was added 30 mL of ether. The mixture was stirred at rt for 2 days. A white solid was collected by filtration, giving 2.1 g (92%) of the title product. mp 183-185° C. 1H NMR (CDCl3) 1.680 (m, 2 H), 2.097 (m, 2 H), 2.338 (s, 3 H), 2.783 (s, 2 H), 3.241 (m, 5 H), 7.049 (d, J=7.5 Hz, 2 H), 7.142 (d, J=7.5 Hz, 2 H), 9.30 (brs, 1 H), 9.515 (brs, 1 H).

reactant | 4-Hydroxy-4-(4-methylbenzyl)piperidine hydrochloride | Cl.OC1(CCNCC1)CC1=CC=C(C=C1)C
reactant | 1-benzyl-4-(4-methylbenzyl)-4-hydroxypiperidine | 9.5 mmol, 2.8 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)CC1=CC=C(C=C1)C | C20H25NO
reactant | ether | 30 mL | CCOCC | C4H10O
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Pd/C | 700 mg | [Pd] | Pd
product | 1-[2-(4-Hydroxyphenoxy)ethyl]-4-hydroxy-4-(4-methylbenzyl)piperidine hydrochloride | 2.1 g, 92% | Cl.OC1=CC=C(OCCN2CCC(CC2)(CC2=CC=C(C=C2)C)O)C=C1 | InChI=1S/C21H27NO3.ClH/c1-17-2-4-18(5-3-17)16-21(24)10-12-22(13-11-21)14-15-25-20-8-6-19(23)7-9-20;/h2-9,23-24H,10-16H2,1H3;1H
